US07871999B2
47 mg (0.74 mmol) of copper and 225 mg (2.27 mmol) of copper(I) chloride were added to a solution of 1.35 g (15.0 mmol) of 2-bromothiazole and 9.48 ml (90.0 mmol) of N-ethylethylenediamine in isopropanol (7.5 ml). The mixture was then heated to 70° C. for 1 h. After cooling to RT, the reaction solution was poured into water and extracted with EA. The organic phase was dried over MgSO4, filtered and evaporated under a vacuum. 200 mg (1.2 mmol, 8%) of N1-ethyl-N1-(thiazol-2-yl)ethane-1,2-diamine were obtained by carrying out CC twice (i. DCE/EtOH 5:1; ii. DCE/EtOH/conc. aq. NH4OH soln. 5:1:0.06) with the residue.

reactant | 2-bromothiazole | 15.0 mmol, 1.35 g | BrC=1SC=CN1 | C3H2BrNS
reactant | N-ethylethylenediamine | 90.0 mmol, 9.48 ml | C(C)NCCN | C4H12N2
reactant | water | O | H2O
solvent | isopropanol | 7.5 ml | C(C)(C)O | C3H8O
catalyst | copper | 0.74 mmol, 47 mg | [Cu] | Cu
catalyst | copper(I) chloride | 2.27 mmol, 225 mg | [Cu]Cl
product | N1-ethyl-N1-(thiazol-2-yl)ethane-1,2-diamine | 1.2 mmol, 200 mg, 8% | C(C)N(CCN)C=1SC=CN1 | C7H13N3S
